*
* NGSPICE simulation script
*
*

* forces current values to be saved
.options savecurrents

* supply voltage AC
Vs 1 GND SIN(0 230 50 0 0 0)
Rq 1 GND 1

*Dependent Voltage source as transformer
E1 2 GND 1 GND .1

** envelop detector
* diode
D101 2 3 Default
*resistor
R1 3 GND 100k
*capacitor
Cc1 3 GND 100u

*voltage regulator
R2 3 4 25.4055k
D2 4 5 Default
D3 5 6 Default
D4 6 7 Default
D5 7 8 Default
D6 8 9 Default
D7 9 10 Default
D8 10 11 Default
D9 11 12 Default
D10 12 13 Default
D11 13 14 Default
D12 14 15 Default
D13 15 16 Default
D14 16 17 Default
D15 17 18 Default
D16 18 19 Default
D17 19 20 Default
D18 20 31 Default
D19 31 32 Default
D20 32 GND Default


.model Default D

.op
.measure tran yavg4 AVG v(4) from=0.3 to=0.6
.measure tran ymax4 MAX v(4) from=0.3 to=0.6
.measure tran ymin4 MIN v(4) from=0.3 to=0.6
.measure tran yavg3 AVG v(3) from=0.3 to=0.6
.measure tran ymax3 MAX v(3) from=0.3 to=0.6
.measure tran ymin3 MIN v(3) from=0.3 to=0.6
.end


.control


*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

*op

*echo "********************************************"
*echo  "Operating point"
*echo "********************************************"
*print Vcc
*print @Q1[ic]
*print @Rf[i]

*echo  "op_TAB"
*print all
*echo  "op_END"


echo "********************************************"
echo  "Transient analysis"
echo "********************************************"

tran 10e-5 0.2
hardcopy transOUT.eps  v(4) v(3)

tran 10e-5 0.2 0.05
hardcopy transRIPPLE.eps v(4) 12

*echo "********************************************"
*echo  "Frequency analysis"
*echo "********************************************"

*ac dec 10 10 100MEG

*hardcopy acm.ps db(v(coll)) v(base)
*echo acm_FIG
*hardcopy acp.ps v(base)
*echo acp_FIG

*plot db(v(coll))
*plot vp(coll)

*echo "********************************************"
*echo  "Input impedance"
*echo "********************************************"

*hardcopy zim.ps abs(v(coll)/((v(1)-v(2))/1k))
*echo zim_FIG

.endc
